US09238640B2
A mixture of N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)acetamide (0.380 g, 1.53 mmol), TPAP (0.026 g, 0.08 mmol), NMO (0.268 g, 2.30 mmol), and molecular sieves (3 Angstrom, 0.300 g) in CH2Cl2 was stirred at room temperature for 19 hours. The mixture was filtered through Celite, concentrated, and purified by flash chromatography on silica gel, eluting with 100% ethyl acetate to 10% MeOH/ethyl acetate, to afford N-(1-(4-formylphenyl)piperidin-4-yl)acetamide as a white solid (0.280 g, 74%).

reactant | N-(1-(4-(hydroxymethyl)phenyl)piperidin-4-yl)acetamide | 1.53 mmol, 0.380 g | OCC1=CC=C(C=C1)N1CCC(CC1)NC(C)=O | C14H20N2O2
reactant | NMO | 2.30 mmol, 0.268 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.08 mmol, 0.026 g | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | N-(1-(4-formylphenyl)piperidin-4-yl)acetamide | 0.280 g, 74% | C(=O)C1=CC=C(C=C1)N1CCC(CC1)NC(C)=O | C14H18N2O2
